US04283539
Methyl 1,2-Dihydro-2-hydroxy-3-methyl-1-oxo-4-isoquinoline Acetate
A clear yellow solution of methyl 2-methyl-1-oxo-3-indane acetic acid (0.844 g., 3.87 mmol) and n-butyl nitrite (1.1 ml., 9.7 mmol) [W. A. Noyes, Org. Syn., Col. Vol. II, 108 (1943)] in 7.6 ml methanol was stirred as a 5% solution of sodium methoxide in methanol. (1.2 ml., 2.6 mmol) was added. Addition of 25 ml. ether to this red-brown solution followed by 1 N hydrochloric acid to pH 3-4 precipitated the title compound which was washed with water and ether and dried: 0.40 g. (42%) mp 185°-190°.

reactant | methyl 2-methyl-1-oxo-3-indane acetic acid | 3.87 mmol, 0.844 g | CC1(C(C2=CC=CC=C2C1CC(=O)O)=O)C | C13H14O3
reactant | n-butyl nitrite | 9.7 mmol, 1.1 ml | N(=O)OCCCC | C4H9NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 7.6 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | Methyl 1,2-Dihydro-2-hydroxy-3-methyl-1-oxo-4-isoquinoline Acetate | ON1C(C2=CC=CC=C2C(=C1C)CC(=O)OC)=O | C13H13NO4
